US04229448
2.84 g of a potassium salt of 5-hydroxy-2-methylpyridine, 4.7 g of p-dibromobenzene and 400 mg of cuprous oxide were suspended in 10 ml of dimethylacetamide, and the mixture was allowed to react in a nitrogen gas stream at 150° C. for 15 hours. The reaction mixture was diluted with 30 ml of methanol and then filtered. The filtrate was immediately dried, and the residue was taken into 100 ml of chloroform and washed successively with a 3% aqueous sodium carbonate solution and 50 ml of water. The chloroform layer was dried with anhydrous sodium sulfate and immediately concentrated to dryness to obtain 2.1 g of oily 5-(p-bromophenoxy)-2-methylpyridine.

reactant | potassium | 2.84 g | [K] | K
reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | p-dibromobenzene | 4.7 g | BrC1=CC=C(C=C1)Br | C6H4Br2
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | methanol | 30 ml | CO | CH4O
product | 5-(p-bromophenoxy)-2-methylpyridine | 2.1 g | BrC1=CC=C(OC=2C=CC(=NC2)C)C=C1 | C12H10BrNO
